US04912221
Methyl α-Acetylamino-3,4-dimethoxycinnamate
This compound was prepared from the product of Example 2 by treatment with sodium carbonate in methanol by a modification of the procedure of Saxena et al (supra). Alternatively, it could be made by esterification of α-acetylamino-3,4-dimethoxycinnamic acid. Thus, 9.62 g of the acid was heated under reflux for 19 hours in 100 mL of methanol containing 1 mL of concentrated hydrochloric acid. After diluting with 500 mL of water, the solution was basified with a 10% aqueous solution of sodium carbonate to a pH of 8-9. The resultant solids were collected by filtration, washed with 3×50 mL of water and dried at the pump. The crude product was further purified by column chromatography on silica gel, eluting with a gradient of methylene chloride/methanol (99:1 thru 96:2). After stripping the solvent from the appropriate fractions, and drying at the pump 2.07 g (21%) of the title compound were obtained; 1HNMR (CDCL3) 7.42 (s, 1H), 7.10 (d, J= 8.5 Hz, 1H), 7.07 (s, 1H), 6.99 (s, 1H), 6.86 (d, J=8.5 Hz, 1H), 3.91 (s, 3H), 3.86 (s, 3H), 3.84 (s, 3H), 2.17 (s, 3H); MP 198°-200° C. Anal. calcd for C14H17NO5 : C, 60.2; H, 6.14; N, 5.02. Found: C, 60.42; H, 5.78; N, 4.53.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | α-acetylamino-3,4-dimethoxycinnamic acid | C(C)(=O)NC(C(=O)O)=CC1=CC(=C(C=C1)OC)OC | C13H15NO5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 500 mL | O | H2O
product | Methyl α-Acetylamino-3,4-dimethoxycinnamate | C(C)(=O)NC(C(=O)OC)=CC1=CC(=C(C=C1)OC)OC | C14H17NO5
